US05670511
2.1 g of 2-[2-(4-(5-carboxy-3-indolyl)piperidino)ethyl]-2,3-dihydro-1H-benz[de]isoquinoline-1,3-dione are suspended in 100 ml of N-methylpyrrolidine. 3.2 g of 2-chloro-1-methylpyridinium methanesulfonate are then added and the mixture is stirred at room temperature for 12 hours. Dried NH3 gas is passed into the resulting solution until it is saturated and the mixture is stirred again for 10 hours. Customary working up gives 2-[2-(4-(5-carbamoyl-3-indolyl)piperidino)ethyl]-2,3-dihydro-1H-benz[de]isoquinoline-1,3-dione.

reactant | 2-[2-(4-(5-carboxy-3-indolyl)piperidino)ethyl]-2,3-dihydro-1H-benz[de]isoquinoline-1,3-dione | 2.1 g | C(=O)(O)C=1C=C2C(=CNC2=CC1)C1CCN(CC1)CCN1C(C2=CC=CC=3C2=C(C1=O)C=CC3)=O | C28H25N3O4
reactant | 2-chloro-1-methylpyridinium methanesulfonate | 3.2 g | CS(=O)(=O)[O-].ClC1=[N+](C=CC=C1)C
reactant | NH3 | N | H3N
solvent | N-methylpyrrolidine | 100 ml | CN1CCCC1 | C5H11N
product | 2-[2-(4-(5-carbamoyl-3-indolyl)piperidino)ethyl]-2,3-dihydro-1H-benz[de]isoquinoline-1,3-dione | C(N)(=O)C=1C=C2C(=CNC2=CC1)C1CCN(CC1)CCN1C(C2=CC=CC=3C2=C(C1=O)C=CC3)=O | C28H26N4O3
